US05446059
b) 3-Benzyloxy-4-(1-adamantyl)benzoic acid
18 g (63 mM) of the ester obtained in Example 9(a) are treated with benzyl bromide under the conditions described in Example 5(a) to lead, after the same treatment, to 17.5 g (74%) of methyl 3-benzyloxy-4-(1-adamantyl)benzoate. The derivative obtained is then saponified under the conditions described in Example 7(b) to lead, after the same treatment, to 13.6 g (96.6%) of the expected derivative, of melting point 240° C.

reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
reactant | methyl 3-benzyloxy-4-(1-adamantyl)benzoate | 17.5 g | C(C1=CC=CC=C1)OC=1C=C(C(=O)OC)C=CC1C12CC3CC(CC(C1)C3)C2 | C25H28O3
product | 3-Benzyloxy-4-(1-adamantyl)benzoic acid | C(C1=CC=CC=C1)OC=1C=C(C(=O)O)C=CC1C12CC3CC(CC(C1)C3)C2 | C24H26O3
